US06906084B2
(ii) 1-[2-(4-Chloro-phenyl)-ethyl]-1H-indole-2-carboxylic acid ethyl ester
0.5 g (2.6 mmol) of 1H-Indole-2-carboxylic acid ethyl ester was dissolved in DMF and 116 mg (2.9 mmol) of sodium hydride (60% dispersion in mineral oil) was added. The solution was stirred for 30 min at room temperature, then cooled to −78° C. A solution of 0.82 g (2.6 mmol) of toluene-4-sulfonic acid 2-(4-chloro-phenyl)-ethyl ester in DMF was added to this cooled solution. The solution was warmed to RT and was stirred for 16 h. The solvent was removed under reduced pressure, the residue was taken-up in ethyl acetate and the solution was washed once with saturated aqueous sodium bicarbonate, once with water, and once with saturated aqueous sodium chloride. The organic phase was dried with magnesium sulfate, filtered and the solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with a gradient of n-heptane/ethyl acetate.

reactant | 1H-Indole-2-carboxylic acid ethyl ester | 2.6 mmol, 0.5 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | sodium hydride | 2.9 mmol, 116 mg | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2-(4-chloro-phenyl)-ethyl ester | 2.6 mmol, 0.82 g | ClC1=CC=C(C=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C15H15ClO3S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[2-(4-Chloro-phenyl)-ethyl]-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CCC1=CC=C(C=C1)Cl | C19H18ClNO2
